US06040321
A mixture of 2-amino-5-[[(5-ethyl-2-oxazolyl)methyl]thio]-thiazole (48.2 mg, 0.2 mmol), benzoyl chloride (24.4 mg, 0.21 mmol) and triethylamine (35 mg, 0.35 mmol) in methylene chloride (0.5 mL) was stirred at rt for 10 min. The organic solution was washed with water and concentrated. The residue was purified by a flash column (SiO2 ; hexanes: ethyl acetate/2:1) to afford N-[5-[[(5-ethyl-2-oxazolyl)methyl]thio]-2-thiazolyl]benzamide (41 mg, 59%) as a solid, mp 122-123° C. 1H NMR (CDCl3) δ12.65 (s, 1 H), 7.96 (m, 2 H), 7.61 (m,, 1 H), 7.49 (m, 2 H), 6.88 (s, 1 H), 6.56 (s, 1 H), 3.93 (s, 2 H), 2.61 (q, J=7.6 Hz, 2 H), 1.20 (t, J=7.6 Hz, 3 H); MS m/e 346 (M+H)+ ;

reactant | 2-amino-5-[[(5-ethyl-2-oxazolyl)methyl]thio]-thiazole | 0.2 mmol, 48.2 mg | NC=1SC(=CN1)SCC=1OC(=CN1)CC | C9H11N3OS2
reactant | benzoyl chloride | 0.21 mmol, 24.4 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 0.35 mmol, 35 mg | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | N-[5-[[(5-ethyl-2-oxazolyl)methyl]thio]-2-thiazolyl]benzamide | 41 mg, 59% | C(C)C1=CN=C(O1)CSC1=CN=C(S1)NC(C1=CC=CC=C1)=O | C16H15N3O2S2
